* ============================================================
* user_macromodels.lib
* LTspice macromodels:
*   SMBJ18CA_MACRO
*   SMD2920P075TF_MACRO
*   AO3480C_MACRO
* ============================================================


* ============================================================
* 1. SMBJ18CA bidirectional TVS diode
* Pins: A K
*
* Based on public Diodes Inc SMBJ18CA SPICE parameters:
* BV≈20.89V, IBV=5mA, CJO≈2.847nF, RS≈45.93mΩ
* ============================================================

.SUBCKT SMBJ18CA_MACRO A K
D1 A MID D_SMBJ18CA
D2 K MID D_SMBJ18CA
RLEAK A K 3.173G
.model D_SMBJ18CA D( IS=537p N=1.612 RS=45.93m CJO=2.847n M=0.491 VJ=0.585 FC=0.5 BV=20.89 IBV=5m )
.ENDS SMBJ18CA_MACRO


* ============================================================
* 2. SMD2920P075TF PPTC resettable fuse
* Pins: P N
*
* Electrical/thermal behavioral approximation.
*
* Default parameters:
*   IHOLD = 0.75A
*   ITRIP = 1.5A
*   R0    = 0.30Ω initial cold resistance
*   RHOT  = 50Ω approximate tripped hot resistance
*
* Notes:
*   - This model is for transient/system behavior only.
*   - RHOT is not R1max. R1max is post-trip/reflow resistance,
*     not the hot dynamic resistance during fault.
*   - Adjust RHOT, CTH, TAU if you want closer timing behavior.
* ============================================================

.func ptc_step(x, x0, w) { 0.5*(1+tanh((x-x0)/w)) }
.func ptc_r(x, r0, rhot, x0, w) { r0 + (rhot-r0)*ptc_step(x,x0,w) }

.SUBCKT SMD2920P075TF_MACRO P N PARAMS:
+ R0=0.30
+ RHOT=50
+ IHOLD=0.75
+ ITRIP=1.5
+ CTH=15
+ TAU=1
+ PTH={R0*((IHOLD+ITRIP)/2)^2}
+ WIDTH={PTH/8}

* Electrical behavior: nonlinear resistor controlled by thermal state V(TH)
BPTC P N I = { V(P,N) / ptc_r(V(TH), R0, RHOT, PTH, WIDTH) }

* Thermal state:
* V(TH) is a normalized heating variable.
* Heating power ≈ V^2/R, cooling ≈ V(TH)/TAU.
C_TH TH 0 {CTH} IC=0
R_TH_LEAK TH 0 1T
BHEAT 0 TH I = { V(P,N)*V(P,N)/ptc_r(V(TH), R0, RHOT, PTH, WIDTH) - V(TH)/TAU }

.ENDS SMD2920P075TF_MACRO


* ============================================================
* 3. AO3480C N-channel MOSFET
* Pins: D G S
*
* Switch-level macromodel.
*
* Approximate datasheet targets:
*   VDS max  = 30V
*   VGS(th)  = typ 1.8V
*   RDS(on)  ≈ 20mΩ @ VGS=10V
*   RDS(on)  ≈ 26mΩ @ VGS=4.5V
*   Ciss     ≈ 600pF
*   Coss     ≈ 70pF
*   Crss     ≈ 60pF
*
* Derived:
*   Cgd ≈ Crss = 60pF
*   Cgs ≈ Ciss - Crss = 540pF
*   Cds ≈ Coss - Crss = 10pF
* ============================================================

.func mos_gate_on(vgs, vto, vslope) { 0.5*(1+tanh((vgs-vto)/vslope)) }

.SUBCKT AO3480C_MACRO D G S PARAMS:
+ VTO=1.8
+ VSLOPE=0.20
+ RMIN=0.017
+ KOV=0.024
+ ILIM=40
+ GOFF=1n
+ RG=2.4
+ CGS=540p
+ CGD=60p
+ CDS=10p

* Internal gate resistance
RGATE G GI {RG}

* Approximate capacitances
CGS1 GI S {CGS}
CGD1 GI D {CGD}
CDS1 D S {CDS}

* Channel current:
* Low VDS: behaves approximately like RDS(on).
* High VDS: current is softly limited by ILIM.
BCH D S I = {
+ ILIM*mos_gate_on(V(GI,S),VTO,VSLOPE)
+ *tanh( V(D,S) / ( ILIM*(RMIN + KOV/max(V(GI,S)-VTO,0.05)) ) )
+ + GOFF*V(D,S)
+ }

* Body diode, also gives approximate 30V drain-source avalanche.
DBODY S D D_AO3480C_BODY
.model D_AO3480C_BODY D( IS=1n N=1.25 RS=35m CJO=70p TT=5n BV=30 IBV=250u )

.ENDS AO3480C_MACRO